US08470820B2
Step 3: (2-Pyridin-2-yl-thiazol-5-yl)-carbamic acid tert-butyl ester
A solution of 2-pyridin-2-yl-thiazol-5-carboxylic acid (250 mg, 1.2 mmol) in tert-butanol (4.5 ml) was treated with diphenylphosphoryl azide (0.4 ml, 1.85 mmol) and triethylamine (0.34 ml, 2.4 mmol) and stirred at 90° C. for 5 h. The reaction mixture was extracted with ethyl acetate and the combined organic phases were washed with saturated ammonium acetate solution, water and brine. The final product was obtained after purification by silica gel chromatography using a heptane/ethyl acetate gradient as yellow oil (180 mg, 54%). MS: M=278.2 (M+H)+

reactant | 2-pyridin-2-yl-thiazol-5-carboxylic acid | 1.2 mmol, 250 mg | N1=C(C=CC=C1)C=1SC(=CN1)C(=O)O | C9H6N2O2S
reactant | diphenylphosphoryl azide | 1.85 mmol, 0.4 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 2.4 mmol, 0.34 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butanol | 4.5 ml | C(C)(C)(C)O | C4H10O
product | (2-Pyridin-2-yl-thiazol-5-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CN=C(S1)C1=NC=CC=C1)=O | C13H15N3O2S
